US06166006
To a solution of N-(4-hydroxymethylphenyl)-2-(4-methylphenyl)-6,7-dihydro-5H-benzocycloheptene-8-carboxamide (10.0 g, 26.1 mmol) and pyridine (0.1 ml) in chloroform (150 ml) was dropwise added a solution of thionyl chloride (3.4 ml, 39.2 mmol)in chloroform (90 ml), and the mixture was stirred under nitrogen atmosphere at room temperature for 17 hours. After the reaction completed, water was added to the mixture, and the mixture was extracted with chloroform. The organic layer was washed with saturated sodium chloride solution and dried with anhydrous magnesium sulfate. The solvent was evaporated, and the resulting powder was washed with hexane to give N-(4-chloromethylphenyl)-2-(4-methylphenyl)-6,7-dihydro-5H-benzocycloheptene-8-carboxamide (10.2 g, 97%) as colorless powder.

reactant | N-(4-hydroxymethylphenyl)-2-(4-methylphenyl)-6,7-dihydro-5H-benzocycloheptene-8-carboxamide | 26.1 mmol, 10.0 g | OCC1=CC=C(C=C1)NC(=O)C=1CCCC2=C(C1)C=C(C=C2)C2=CC=C(C=C2)C | C26H25NO2
reactant | pyridine | 0.1 ml | N1=CC=CC=C1 | C5H5N
reactant | thionyl chloride | 39.2 mmol, 3.4 ml | S(=O)(Cl)Cl | Cl2OS
reactant | water | O | H2O
solvent | chloroform | 150 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 90 ml | C(Cl)(Cl)Cl | CHCl3
product | N-(4-chloromethylphenyl)-2-(4-methylphenyl)-6,7-dihydro-5H-benzocycloheptene-8-carboxamide | 10.2 g, 97% | ClCC1=CC=C(C=C1)NC(=O)C=1CCCC2=C(C1)C=C(C=C2)C2=CC=C(C=C2)C | C26H24ClNO
